US07678942B2
bis(m-tolyl)phosphine oxide
Under a nitrogen stream, a solution of magnesium (3.60 g, 3.50 equivalents) and a small amount of iodine and 1,2-dibromoethane in THF (25 mL) solution was stirred at room temperature for 30 min. A solution of m-bromotoluene (25.36 g, 3.51 equivalents) in THF (130 mL) was added at 24° C., and the mixture was stirred at 40° C. for 30 min. Then, a solution of diethyl phosphite (5.84 g, 42.3 mmol) in THF (10 mL) was added at 25° C., and the mixture was stirred at 24° C. for 1.5 hrs. 6M—HCl (20 mL) was added at 4° C., and then water (20 mL) and toluene (60 mL) were added. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was washed successively with 10% aqueous NaHCO3 solution (20 mL), water (20 mL) and 10% aqueous NaCl solution (20 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and further passed through a membrane filter (0.2 μm) under reduced pressure. The filtrate was concentrated under reduced pressure to give the title compound (9.09 g, colorless oil). yield 93.3%

reactant | magnesium | 3.60 g, 3.50 equivalents | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | m-bromotoluene | 25.36 g, 3.51 equivalents | BrC=1C=C(C=CC1)C | C7H7Br
reactant | diethyl phosphite | 42.3 mmol, 5.84 g | P(OCC)(OCC)[O-]
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
product | bis(m-tolyl)phosphine oxide | 9.09 g, yield 93.3% | C1(=CC(=CC=C1)P(C=1C=C(C=CC1)C)=O)C | C14H15OP
